US08614209B2
5-(2-Methyl-2H-pyrazol-3-yl)-thiophene-3-carboxylic acid methyl ester (0.076 g, 0.34 mmol) was suspended in methanol (0.75 mL) then sodium hydroxide (1 M, 0.41 mL) was added and the mixture stirred for 1.5 hours. A further amount of sodium hydroxide (1 M, 0.41 mL) was added and the mixture stirred overnight. The solution was evaporated, the residue was taken up in HCl (1 N, 1.0 mL) and the resultant precipitate was collected by filtration, washed with water and dried to afford 5-(1-methyl-1H-pyrazol-3-yl)-thiophene-3-carboxylic acid as a grey solid (0.042 g).

reactant | 5-(2-Methyl-2H-pyrazol-3-yl)-thiophene-3-carboxylic acid methyl ester | 0.34 mmol, 0.076 g | COC(=O)C1=CSC(=C1)C=1N(N=CC1)C | C10H10N2O2S
reactant | sodium hydroxide | 1 M, 0.41 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1 M, 0.41 mL | [OH-].[Na+]
reactant | methanol | 0.75 mL | CO | CH4O
product | 5-(1-methyl-1H-pyrazol-3-yl)-thiophene-3-carboxylic acid | 0.042 g | CN1N=C(C=C1)C1=CC(=CS1)C(=O)O | C9H8N2O2S
